US06462050B1
Preparation of N-(2,2-Difluoro-2-pyridin-2-yl-ethyl)-2-[3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-acetamide
5-1 was prepared from [3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-acetic acid and 2,2-difluoro-2-(2-pyridyl)ethyl amine essentially according to the procedure of Example 1, Step K. Mass Spectrum: Found: (M+1)465.2.

reactant | [3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-acetic acid | FC(CNC=1C(N(C(=CN1)C)CC(=O)O)=O)(C1=NC=CC=C1)F | C14H14F2N4O3
reactant | 2,2-difluoro-2-(2-pyridyl)ethyl amine | FC(CN)(C1=NC=CC=C1)F | C7H8F2N2
product | N-(2,2-Difluoro-2-pyridin-2-yl-ethyl)-2-[3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-acetamide | FC(CNC(CN1C(C(=NC=C1C)NCC(C1=NC=CC=C1)(F)F)=O)=O)(C1=NC=CC=C1)F | C21H20F4N6O2
